US07612201B2
Piperazine-1-carboxylic acid tert-butyl ester (2.62 g, 14 mmol), cesium carbonate (5 g, 15 mmol) and ethyl bromoacetate (1.56 ml, 14 mmol) was stirred at room temperature for 1 h. The mixture was partitioned between water (200 ml) and diethyl ether (2×100 ml). The combined organic phases were dried over magnesium sulphate and concentrated to give a yellow oil which crystallised to give 4-ethoxycarbonylmethyl-piperazine-1-carboxylic acid tert-butyl ester as a pale yellow solid (2.6 g)

reactant | Piperazine-1-carboxylic acid tert-butyl ester | 14 mmol, 2.62 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | cesium carbonate | 15 mmol, 5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 14 mmol, 1.56 ml | BrCC(=O)OCC | C4H7BrO2
product | 4-ethoxycarbonylmethyl-piperazine-1-carboxylic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(=O)OCC | C13H24N2O4
